US06500817B1
N,N,4-Trimethyl-2-{methyl[4-morpholinoanilinocarbonyl]amino}-1,3-thiazole-5-sulphonamide
12.0 g (40.3 mmol) of 5-[(dimethylamino)sulphonyl]-4-methyl-1,3-thiazol-2-yl(methyl)carbamoyl chloride and 4.08 g (40.3 mmol) of triethylamine were dissolved in 150 ml of dioxane, and 7.18 g (40.3 mmol) of 4-morpholinoaniline, dissolved in 60 ml of dioxane, were added dropwise. The mixture was stirred at room temperature for 12 h, and the resulting precipitate was filtered off and dissolved in a dichloromethane/water (1:1) solvent mixture. The organic phase was separated off, dried over sodium sulphate and concentrated in vacuo.

reactant | 5-[(dimethylamino)sulphonyl]-4-methyl-1,3-thiazol-2-yl(methyl)carbamoyl chloride | 40.3 mmol, 12.0 g | CN(S(=O)(=O)C1=C(N=C(S1)N(C(=O)Cl)C)C)C | C8H12ClN3O3S2
reactant | triethylamine | 40.3 mmol, 4.08 g | C(C)N(CC)CC | C6H15N
reactant | 4-morpholinoaniline | 40.3 mmol, 7.18 g | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | N,N,4-Trimethyl-2-{methyl[4-morpholinoanilinocarbonyl]amino}-1,3-thiazole-5-sulphonamide | CN(S(=O)(=O)C1=C(N=C(S1)N(C(=O)NC1=CC=C(C=C1)N1CCOCC1)C)C)C | C18H25N5O4S2
